data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,672,"CC(=O)CCC(C)(NC1=NNC=C1)[OH:1].CC(=O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,9711,"CCCC[NH2:1].COC1=CC=C([CH2:2][Br:3])C=C1|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,296,"C1=CC=C(C[OH+:1][H:2])C=C1.C1=CC=CC=C1.CC1=CC=C(S(=O)(=O)[O-])C=C1.CCCCCCCCC=CCCCCCCCC(O)(OCC1=CC=CC=C1)[OH:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,545,"CC#[C-:1].CC[NH2+]CC.[I:2][I:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,1948,"C1=CC=[N:1]C=C1.C1CCOC1.O=C(CCl)NC1=C([NH+:2](C([O-])(Cl)C2=CC=CO2)[H:3])C2=C(C=C1)C(=O)C1=C(C=CC=C1)C2=O|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,167,"CC1=CC=C(S(=O)(=O)[O-])C=C1.CO.C[OH+:1][CH:2](C1=CC=CC=C1)[O:3]CC1OC(OC2C(N=[N+]=[N-])CC(N=[N+]=[N-])C(OC3OC(CN=[N+]=[N-])C(O)C(O)C3O)C2O)C(O)C(N=[N+]=[N-])C1O|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7221,"BrC1=C[CH:1]=[CH:2]O1.O=[N+:3]=[O:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,5734,"COC1=C2C3=C(C=C1)CC1N(CCC4=CC=CC=C4)CCC34C1(O)CC[CH-:1][CH:2]4[O:3]2.N#N.O.[K+]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,5290,"C[S+:1](C)(=O)[CH2:2]C[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1735,"CN1C(=O)C2=CC=CN2C=C1CCCN1C(=[O:1])C2=C(C=CC=C2)C1([O-])NN.N[NH2+:2][H:3].O.[Cl-].[K+]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,9398,"COC1=CC2=C(C=C1OC)C1CN(C)C(=O)C(SC)[C:1]3([H:2])C=C[C:3](=[O+:4]CC4=CC=CC=C4)[C:5](=[C:6]13)O2.O=C(C(F)(F)F)[O-:7].O=C(O)C(F)(F)F|(7, 2);((2, 1), 6);((6, 5), 3);((3, 4), 4)"
train,pmechdb_split_0,0,9689,"CC1=NCC(COS(C)(=O)=O)[O+:1]1[B-:2](F)(F)F|((2, 1), 1)"
train,pmechdb_split_0,0,3408,"CC[O:1]C1CCCCO1.O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,4457,"CO[C:1]1=[CH:2]C2=C(C=CC=C2)C=C1.O=[S+:3](=O)O|((1, 2), 3)"
train,pmechdb_split_0,0,3505,"CC12CCC(O)([N:1]3CCCC3C(=O)[O-])C=C1CCC2=O.O.O=C([O-])C1CCC[NH+:2]1[H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,343,"CO[C:1](O)=[OH+:2].C[OH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,8441,"ClC[N+]12CC[NH+](CC1)CC2.F[B-](F)(F)F.O[P:1](C1CCCCC1)(C1CCCCC1)(C1CCCCC1)[F:2]|((1, 2), 2)"
train,pmechdb_split_0,0,26,"CC(=O)O[I:1]1(OC(C)=O)([O:2]C(C)=O)OC(=O)C2=C1C=CC=C2|((1, 2), 2)"
train,pmechdb_split_0,0,4892,"CC1=CC[C:1]([H:2])([C+:3](C)C)CC1.O=P1([O-])[O][Mg][O]P(=O)([O-:4])O1|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,538,"CCOC(CCC(=O)NC)=[O+:1][H:2].O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1273,"CC(=O)CCC(=O)C1=CC(C2=CC=C(C)N2)=CC(C(=O)CC[C:1](C)=[O:2])=C1.CC(=O)O.O=C[O-].[NH3:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,16,"CCO.NC1=N[C:1]([NH2:2])=[C:3]([CH:4](Cl)[Cl:5])C=C1.O.[Na+]|(2, 1);((1, 3), 4);((4, 5), 5)"
train,pmechdb_split_0,0,4471,"[CH:1](=[OH+:2])[NH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,5645,"CC1=CC2=C(C=C1)C1CCC(C)CCC3(OCC[O:1]3)C21O.CC[SiH](CC)CC.F[B:2](F)F|(1, 2)"
train,pmechdb_split_0,0,3117,"O=S(=O)(O)[C:1]1([H:2])C2=C(C=C[CH+:3]1)C=C(C(F)(F)F)C=C2.O=S(=O)(O)[O-:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,9879,"CCOCC[CH2][Sn-:1]([CH3])([CH3])([F])[CH3:2].[H:3][OH2+:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,7020,"CCCOC=[O:1].F[B:2](F)F|(1, 2)"
train,pmechdb_split_0,0,4377,"C1=CC=C([C+:1](C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC[NH+](CC)CC.N#CC1=CC=CC(OCCCSC2=N[N-:2]C=N2)=C1.[Cl-]|(2, 1)"
train,pmechdb_split_0,0,4369,"CCNCC=C(NCC)[O-:1].O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,4561,"C=C(Br)CC1OC1[CH:1]=[O+:2][B-](F)(F)F.CCOCC.COC1=CC=C(COCC(C)[C:3](C[Si](C)(C)C)=[CH2:4])C=C1|((3, 4), 1);((1, 2), 2)"
train,pmechdb_split_0,0,1776,"C1CCC2=[NH+]CCCN2CC1.COC(=O)[CH:1]=[C:2](C)[O-:3].CO[C:4](=[O:5])[C:6](Br)=[CH2:7]|(3, 2);((2, 1), 7);((7, 6), 4);((4, 5), 5)"
train,pmechdb_split_0,0,7304,"CO.C[NH+]1CCC(C2=CC=CC=C2)([C:1](=[NH2+:2])[O:3]C)CC1.O=S(=O)([O-])[O-]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,1671,"CO[C:1](C)=[OH+:2].[Cl-].[NH3:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,10013,"C1CC(C2=NN=NN2)[NH:1]C1.CCCCC(=O)C1=C(O)C=CC(Br)=C1.O=C(O)C(F)(F)F.O=[N+]([O-])C1=CC=C([CH:2]=[O:3])C=C1|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,5089,"CCC1C(C[CH2:1][O:2]S(=O)(=O)C2=CC=C(C)C=C2)C[CH:3]=[CH:4]1|((3, 4), 1);((1, 2), 2)"
train,pmechdb_split_0,0,1153,"C[N:1]=[N:2][OH2+:3].[Cl-]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,4382,"BrC1=CO[CH:1]=[CH:2]1.C[C+:3]=O|((2, 1), 3)"
train,pmechdb_split_0,0,10323,"N#C[CH:1]([H:2])[C:3]#[N:4].[H:5][Na:6]|((6, 5), 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,3079,"CC(C)(CC1=CC=NC=C1)[O-:1].[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,3945,"C=CC[CH](CC=C)[Li-:1][N+](C)(C)CC[N:2](C)C|(2, 1)"
train,pmechdb_split_0,0,2028,"C[N:1](C)[S:2](=O)(=O)[Cl:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,9483,"C1=CC=C(C[O:1][CH2:2][Cl:3])C=C1.CO|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,6733,"CC1=CC=C(S(=O)(=O)[O:1][CH2:2]CC2C[CH:3]=[CH:4]C2C2CCCCC2)C=C1|((3, 4), 2);((2, 1), 1)"
train,pmechdb_split_0,0,10188,"CN[C:1](O)=[NH+:2]C|((1, 2), 2)"
train,pmechdb_split_0,0,6297,"CCC=[O:1].O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
